US07354893B2
Preparation of an isomer mixture containing 2-[1-methyl-3-(2,6,6-trimethyl-1-cyclohexen-1-yl)allyl]-1,3-dioxane as the main component
103 g (0.5 mol) of 2-methyl-4-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-butenal, 38 g (0.5 mol) of 1,3-propanediol and 1 g of p-toluenesulfonic acid are heated with 200 g of toluene for 2.5 hours in a water separator. After cooling, the mixture is washed with soda solution and dried over sodium sulfate. 3 g of sodium carbonate are added and the mixture is distilled on a 30 cm packed column. At 122-126° C./1.6-0.82 mbar this yields 81 g of product comprising 66% of 2-[1-methyl-3-(2,6,6-trimethyl-1-cyclohexen-1-yl)allyl]-1,3-dioxane and also containing other isomers with double bonds.

reactant | 2-methyl-4-(2,6,6-trimethyl-1-cyclohexen-1-yl)-2-butenal | 0.5 mol, 103 g | CC(C=O)=CCC1=C(CCCC1(C)C)C | C14H22O
reactant | 1,3-propanediol | 0.5 mol, 38 g | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 200 g | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-[1-methyl-3-(2,6,6-trimethyl-1-cyclohexen-1-yl)allyl]-1,3-dioxane | CC(C=CC1=C(CCCC1(C)C)C)C1OCCCO1 | C17H28O2
